US04584008
1-cyano-1-(1,2,4-triazol-1-yl)ethane
In this example, a mixture containing 13.47 gms (0.195 mole) of 1,2,4-triazole and 10.53 gms (0.195 mole) of sodium methoxide in 200 mls of dimethylforamide was refluxed until no further evolution of the methanol by-product was observed. The reaction mixture was then cooled to 0° C. and then 19.23 gms of 2-chloropropionitrile dissolved in 25 mls of dimethylforamide were added dropwise with stirring. The mixture was then stirred overnight (about 12 to 14 hours) at room temperature and then filtered. The dimethylforamide was then removed by vacuum evaporation. The residue was dissolved in methylene chloride and filtered through neutralized silica gel. The filtrate was evaporated affording 16.73 gms of the title compound as a brown liquid.

reactant | 1,2,4-triazole | 0.195 mole, 13.47 gms | N1N=CN=C1 | C2H3N3
reactant | sodium methoxide | 0.195 mole, 10.53 gms | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | 2-chloropropionitrile | 19.23 gms | ClC(C#N)C | C3H4ClN
solvent | dimethylforamide | 200 mls | CN(C=O)C | C3H7NO
solvent | dimethylforamide | 25 mls | CN(C=O)C | C3H7NO
product | 1-cyano-1-(1,2,4-triazol-1-yl)ethane | 16.73 gms | C(#N)C(C)N1N=CN=C1 | C5H6N4
